US06916839B2
Preparation of 4-ethenyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazolyl-3,5-bis(trifluoromethyl)benzene
10 g of 3,5-bis(trifluoromethyl)bromobenzene are mixed with 11 ml of cyclohexyldimethylamine and 30 ml of dimethylacetamide and degassed. 38 mg of palladium acetate and 152 mg of di(tert-butyl)phenylphosphine are dissolved in 5 ml of dimethylacetamide and added to the mixture. The mixture is transferred to an autoclave and 30 bar of ethylene are injected. The mixture is then heated to 110° C. and stirred at this temperature for 3 hours. At the end of the reaction, the mixture is cooled and the pressure released. Subsequently, 8.3 g of 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole are added to the reaction mixture and the mixture is heated to 130° C. for 12 h. Afterwards, the mixture is cooled, added to water and worked up with toluene. Yield over the two steps: 10.5 g (76%) of slightly brownish solid.

reactant | 3,5-bis(trifluoromethyl)bromobenzene | 10 g | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | cyclohexyldimethylamine | 11 ml | C1(CCCCC1)N(C)C | C8H17N
reactant | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
reactant | 1,5-dimethyl-3-trifluoromethyl-1H-pyrazole | 8.3 g | CN1N=C(C=C1C)C(F)(F)F | C6H7F3N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-ethenyl-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazolyl-3,5-bis(trifluoromethyl)benzene | C(=C)C=1C(N(N(C1C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(F)(F)F | C16H13F9N2
